### PR TITLE
Added Odd Weird Number Conjecture

### LINKED ISSUE #2250: Existence of Odd Weird Numbers
### What is the conjecture

 A weird number is a natural number that is abundant (the sum of its proper divisors exceeds the number itself) but not pseudoperfect (it cannot be expressed as a sum of a proper subset of its divisors). All known weird numbers are even. The question asks: does there exist an odd weird number?

More formally, does there exist an odd natural number $n$ such that:
1. $n$ is abundant: $\sigma(n) - n > n$, where $\sigma(n)$ denotes the sum of all positive divisors of $n$
2. $n$ is not pseudoperfect: there does not exist a proper divisor subset $S \subset \{d : d \mid n, d < n\}$ such that $\sum_{d \in S} d = n$

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Weird_number, https://oeis.org/A006037, https://mathworld.wolfram.com/WeirdNumber.html

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-10)

Building blocks (2):
- `Nat.divisors` (Mathlib): computes the list of divisors of a natural number
- `Finset.sum` (Mathlib): sums over finite sets, enabling definition of σ(n)

Missing pieces (2):
- Definition of abundant numbers: a number where sum of proper divisors exceeds the number
- Definition of pseudoperfect numbers: subset sum machinery to characterize numbers expressible as sums of proper divisor subsets

Rating justification (1-2 sentences): Core divisor machinery exists in Mathlib, making abundant numbers straightforward to define. Pseudoperfect numbers require subset enumeration and sum checking over finite sets of divisors, which is moderately complex but well-supported in Lean's type theory and Mathlib's finite set operations.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by eyang07**
Fixes #2250

### CODE REVIEW

**Comment by eyang07** [comment]
I have now signed the CLA.

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean [hunk 1]
```diff
@@ -0,0 +1,59 @@
...
+def is_weird (n : ℕ) : Prop :=
+  is_abundant n ∧ ¬pseudoperfect n
+
+/-
+The Existence of Odd Weird Number Conjecture asks if there exists
+an odd number that is weird.
+-/
+@[category research open, AMS 11]
+theorem existence_odd_weird :
+    ∃ n : ℕ, is_weird n ∧ Odd n := by
```
Comment (aditya-ramabadran) [inline FormalConjectures/Wikipedia/OddWeirdNumber.lean]:
```suggestion
    answer(sorry) ↔ ∃ n : ℕ, is_weird n ∧ Odd n := by
```

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean
Comment (mo271) [inline FormalConjectures/Wikipedia/OddWeirdNumber.lean:1]: Please don't redefine concepts already in https://github.com/leanprover-community/mathlib4/blob/ff3c134652a7b71fd17c4c2d5a8226d206a026ce/Mathlib/NumberTheory/FactorisationProperties.lean#L18
but rather use them!

**Review by mo271 — COMMENTED** [review]
Thanks for the contribution!
A first remark about re-using stuff from Mathlib

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean
Comment (eyang07) [reply FormalConjectures/Wikipedia/OddWeirdNumber.lean:1]: Thank you for the feedback! I did not realize these definitions were already in mathlib. I will make the fixes now.

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean [hunk 2]
```diff
@@ -0,0 +1,38 @@
...
+namespace OddWeirdNumber
+
+/-
+The Existence of Odd Weird Number Conjecture asks if there exists
+an odd number that is weird.
+-/
+@[category research open, AMS 11]
+theorem existence_odd_weird :
+    answer(sorry) ↔ ∃ n : ℕ, n.Weird ∧ Odd n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/OddWeirdNumber.lean]:
```suggestion
theorem existence_odd_weird : type_of% Erdos.470.erdos_470.part1 := by
  sorry
```

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean [hunk 3]
```diff
@@ -0,0 +1,38 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/OddWeirdNumber.lean:19]:
```suggestion
import FormalConjectures.Util.ProblemImports
import FormalConjectures.ErdosProblems.«470»
```

This is already here, but still good to also have the wikipedia file!

**Review by mo271 — APPROVED** [review]
LGTM, thanks!
We already have that as Erdős problem 470, but it is still good to have here. 

Potentially also good to add the wikipedia reference and oeis to the file in `ErdosProblems`!

**Comment by eyang07** [comment]
Added Erdős Problem #470 as a reference.

File: FormalConjectures/Wikipedia/OddWeirdNumber.lean [hunk 4]
```diff
@@ -0,0 +1,39 @@
...
+/-
+The Existence of Odd Weird Number Conjecture asks if there exists
+an odd number that is weird.
+-/
+@[category research open, AMS 11]
+theorem existence_odd_weird :
+    answer(sorry) ↔ ∃ n : ℕ, n.Weird ∧ Odd n := by
+  sorry
+
+end OddWeirdNumber
```
Comment (mo271) [inline FormalConjectures/Wikipedia/OddWeirdNumber.lean]:
```suggestion
```

Let's make this file docstring / import only and not repeat the conjecture!

**Comment by mo271** [comment]
Thanks again!
